US07692033B2
Preparation of 2-benzoyloxyacetaldehyde dimethyl acetal
Chloroacetaldehyde dimethyl acetal (50.0 g), potassium benzoate (70.7 g), potassium iodide (6.66 g) and DMF (N,N-dimethylformamide) (250 mL) were placed in a three-neck flask, followed by refluxing. Twenty hours later, the reaction mixture was cooled to room temperature, and water (250 mL) and ethyl acetate (250 mL) were added thereto, followed by stirring. After filtration, the filtrate was extracted with ethyl acetate (500 mL). The organic layer was subjected to vacuum concentration and then to vacuum distillation at 132-135° C. and at 5 mmHg and thereby yielded the target compound (61.0 g) in a yield of 72%.

reactant | Chloroacetaldehyde dimethyl acetal | 50.0 g | COC(CCl)OC | C4H9ClO2
reactant | potassium benzoate | 70.7 g | C(C1=CC=CC=C1)(=O)[O-].[K+]
reactant | potassium iodide | 6.66 g | [I-].[K+]
reactant | DMF | 250 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 250 mL | O | H2O
product | 2-benzoyloxyacetaldehyde dimethyl acetal | 61.0 g, yield of 72% | COC(COC(C1=CC=CC=C1)=O)OC | C11H14O4
